US07888364B2
N-(4-chloro-3-(5-hydroxypyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide (0.05 mmol) was used in Procedure L with excess iodoethane. Purified by silica gel chromatography (0-100% ethyl acetate/hexane) to yield N-(4-chloro-3-(5-ethoxypyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide as a white solid: TLC Rf=0.64 (50% ethyl acetate/hexanes); MS (Q1) 436 (M)+.

reactant | N-(4-chloro-3-(5-hydroxypyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide | 0.05 mmol | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)C1=NC=C(C=C1)O | C19H13ClF3N3O2
reactant | iodoethane | ICC | C2H5I
product | N-(4-chloro-3-(5-ethoxypyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)C1=NC=C(C=C1)OCC | C21H17ClF3N3O2
